US04728645
A solution of 0.5 g of 1-(p-N-tert-butylaminocarbonylphenyl)-4-(1-trityl-4-imidazolyl)-1-butanone in 20 ml of thionyl chloride is refluxed for 3 h and poured into 100 ml of ice-water. The aqueous phase is extracted with ether (3×20 ml), adjusted to pH=10 and reextracted with methylene chloride. The organic phase is dried and evaporated to yield 1-(p-cyanophenyl)-4-(4-imidazolyl)-1-butanone.

reactant | 1-(p-N-tert-butylaminocarbonylphenyl)-4-(1-trityl-4-imidazolyl)-1-butanone | 0.5 g | C(C)(C)(C)NC(=O)C1=CC=C(C=C1)C(CCCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H37N3O2
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-(p-cyanophenyl)-4-(4-imidazolyl)-1-butanone | C(#N)C1=CC=C(C=C1)C(CCCC=1N=CNC1)=O | C14H13N3O
